US07973059B2
A solution of 3,3′-methylenedipyridine (340 mg, 1.99 mmol) in THF (20 mL) at −78° C. was treated with lithium diisopropylamide (2.65 mL of a 1.5 M solution of the mono-THF complex in cyclohexane, 3.98 mmol) dropwise. After stirring at −78° C. for 30 min, 2-(3,5-dichlorophenyl)nicotinaldehyde (500 mg as a solution in 6 mL THF, 1.99 mmol) was added dropwise via syringe. The reaction mixture was stirred for 1 h at −78° C., warmed to 0° C. over 5 min, then quenched with the addition of 100 mL H2O. The mixture was extracted with EtOAc (3×60 mL) and organic extracts were pooled, dried (Na2SO4), concentrated under reduced pressure, and purified by flash chromatography (40 g SiO2, 0-10% MeOH/CH2Cl2 gradient elution) to provide racemic 1-[2-(3,5-dichlorophenyl)pyridin-3-yl]-2,2-dipyridin-3-ylethanol. Resolution was performed by HPLC using a chiral stationary phase (ChiralPak AD, 5 cm×50 cm, 20μ, 40-100% i-PrOH/hexanes gradient elution modified with 1 mL/L diethylamine, 80 mL/min) and provided the title compound.

reactant | 3,3′-methylenedipyridine | 1.99 mmol, 340 mg | C(C=1C=NC=CC1)C=1C=NC=CC1 | C11H10N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(3,5-dichlorophenyl)nicotinaldehyde | ClC=1C=C(C=C(C1)Cl)C1=C(C=O)C=CC=N1 | C12H7Cl2NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | racemic 1-[2-(3,5-dichlorophenyl)pyridin-3-yl]-2,2-dipyridin-3-ylethanol | ClC=1C=C(C=C(C1)Cl)C1=NC=CC=C1C(C(C=1C=NC=CC1)C=1C=NC=CC1)O | C23H17Cl2N3O
